US06172085B2
2-[[4-(4-Chlorobenzoyl)-1-piperazinyl]methyl]-2,3-dihydro-2,4,6,7-tetramethyl-5-benzofuranamine
Using 2,3-dihydro-2,4,6,7-tetramethyl-2-[(1-piperazinyl)methyl]-5-benzofuranamine and 4-chlorobenzoic acid, the procedure of Example 10, presented hereinafter, was otherwise followed to provide the title compound. Yield 64%.

reactant | 2,3-dihydro-2,4,6,7-tetramethyl-2-[(1-piperazinyl)methyl]-5-benzofuranamine | CC1(OC2=C(C1)C(=C(C(=C2C)C)N)C)CN2CCNCC2 | C17H27N3O
reactant | 4-chlorobenzoic acid | ClC1=CC=C(C(=O)O)C=C1 | C7H5ClO2
product | 2-[[4-(4-Chlorobenzoyl)-1-piperazinyl]methyl]-2,3-dihydro-2,4,6,7-tetramethyl-5-benzofuranamine | Yield 64% | ClC1=CC=C(C(=O)N2CCN(CC2)CC2(OC3=C(C2)C(=C(C(=C3C)C)N)C)C)C=C1 | C24H30ClN3O2
